US05326760
2-(R)-[[3-methyl-1-(S)-[(benzylamino)carbonyl]butyl]amino]-4-[((1,1-dimethylethyl)dimethylsilyl)oxy]-butanoic acid-1,1-dimethylethyl ester
11.4 g of N-[(R)-1-[(1,1-dimethylethoxy)carbonyl]-3-[[(1,1-dimethylethyl)dimethylsilyl]oxy]propyl]-L-leucine, prepared as in Example I, 3.64 g benzylamine, and 4.59 g hydroxybenzotriazole in 150 mL DMF was sparged with nitrogen for 10 min. 7.02 g of d icyclohexylcarbodiimide in 50 mL DMF was added dropwise at 0° C. The mixture was stirred for 15 h at 23° C., filtered, and the solvents were removed by evaporation. The residue was purified by silica chromatography using 80% hexane-ethyl acetate as eluent to give the title compound as a brown oil; 8.8 g.

reactant | N-[(R)-1-[(1,1-dimethylethoxy)carbonyl]-3-[[(1,1-dimethylethyl)dimethylsilyl]oxy]propyl]-L-leucine | 11.4 g | CC(C)(OC(=O)[C@@H](CCO[Si](C)(C)C(C)(C)C)N[C@@H](CC(C)C)C(=O)O)C | C20H41NO5Si
reactant | benzylamine | 3.64 g | C(C1=CC=CC=C1)N | C7H9N
reactant | hydroxybenzotriazole | 4.59 g | OC1=CC=CC=2NN=NC21 | C6H5N3O
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
product | 2-(R)-[[3-methyl-1-(S)-[(benzylamino)carbonyl]butyl]amino]-4-[((1,1-dimethylethyl)dimethylsilyl)oxy]-butanoic acid-1,1-dimethylethyl ester | CC(C)(C)OC([C@@H](CCO[Si](C)(C)C(C)(C)C)N[C@@H](CC(C)C)C(=O)NCC1=CC=CC=C1)=O | C27H48N2O4Si
